US08207168B2
5-(4-Hydroxyphenyl)-2-methyl-2H-pyridazin-3-one was prepared from 5-(4-methoxy-phenyl)-2-methyl-2H-pyridazin-3-one with BBr3 using the procedure described in Example 86 Step 2; Mp 296-8° C.; MS m/z 203 (M+H).

reactant | 5-(4-methoxy-phenyl)-2-methyl-2H-pyridazin-3-one | COC1=CC=C(C=C1)C1=CC(N(N=C1)C)=O | C12H12N2O2
reactant | BBr3 | B(Br)(Br)Br | BBr3
product | 5-(4-Hydroxyphenyl)-2-methyl-2H-pyridazin-3-one | OC1=CC=C(C=C1)C1=CC(N(N=C1)C)=O | C11H10N2O2
